US08202863B2
To a suspension of 2-phenyl-pyrimidine-5-carboxylic acid (400 mg, 2 mmol) in DCM (10 mL), oxalyl chloride (0.2 mL, 2.3 mmol) is added at 0° C. followed by DMF (0.23 mL, 3 mmol). The mixture is stirred at 0° C. for 20 minutes, warmed to room temperature and stirred for 20 additional min. The mixture is concentrated in vacuo. The residue is dissolved in DCM and 3-phenyl-[1,2,4]thiadiazol-5-ylamine (248 mg, 1.4 mmol) is added followed by NMP (0.5 mL). The mixture is stirred at room temperature for two hours, and concentrated in vacuo. The residue is triturated in DCM to afford 2-phenyl-pyrimidine-5-carboxylic acid (3-phenyl-[1,2,4]thiadiazol-5-yl)-amide (300 mg) as a solid. MS: 360 (M+H); IC50=30 nM.

reactant | 2-phenyl-pyrimidine-5-carboxylic acid | 2 mmol, 400 mg | C1(=CC=CC=C1)C1=NC=C(C=N1)C(=O)O | C11H8N2O2
reactant | oxalyl chloride | 2.3 mmol, 0.2 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | 3 mmol, 0.23 mL | CN(C)C=O | C3H7NO
reactant | 3-phenyl-[1,2,4]thiadiazol-5-ylamine | 1.4 mmol, 248 mg | C1(=CC=CC=C1)C1=NSC(=N1)N | C8H7N3S
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | NMP | 0.5 mL | CN1CCCC1=O | C5H9NO
product | 2-phenyl-pyrimidine-5-carboxylic acid (3-phenyl-[1,2,4]thiadiazol-5-yl)-amide | 300 mg | C1(=CC=CC=C1)C1=NSC(=N1)NC(=O)C=1C=NC(=NC1)C1=CC=CC=C1 | C19H13N5OS
